US07964643B2
3′-Methylbiphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide (ABD-308)
Using a method analogous to that described in Example 40, 4-bromophenyl-sulfonic acid-(4-hydroxybutyl)-amide and 3-methylphenyl boronic acid were reacted to give the title compound as a white solid. δC (DMSO, 62.9 MHz): 21.1, 25.8, 29.5, 42.6, 60.2, 124.1, 127.1, 127.3, 129.0, 138.4, 138.6, 139.2 and 143.9.

reactant | 4-bromophenyl-sulfonic acid-(4-hydroxybutyl)-amide | OCCCCNS(=O)(=O)C1=CC=C(C=C1)Br | C10H14BrNO3S
reactant | 3-methylphenyl boronic acid | CC=1C=C(C=CC1)B(O)O | C7H9BO2
product | 3′-Methylbiphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide | OCCCCNS(=O)(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)C | C17H21NO3S
